US04001418
Methanesulphonyl chloride (1.71 ml.) is added dropwise over 5 minutes at 5° C. to a solution of 4,5-dimethoxy-9,9-bis(2'-hydroxyethyl)thioxanthene (3.46 g.), and triethylamine (4.18 ml.) in dry methylene chloride (70 ml.) with stirring. The mixture is stirred for 15 minutes, diluted with methylene chloride (70 ml.) and washed successively with water, 10% aqueous HCl, a saturated solution of NaHCO3 and brine. The solution is dried over MgSO4 and evaporated to dryness. The solid residue is recrystallised from ethanol to give 4,5-dimethoxy-9,9-bis(2'-methanesulphonyloxyethyl)thioxanthene, m.p. 176°-178° C.

reactant | Methanesulphonyl chloride | 1.71 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4,5-dimethoxy-9,9-bis(2'-hydroxyethyl)thioxanthene | 3.46 g | COC1=CC=CC=2C(C3=CC=CC(=C3SC12)OC)(CCO)CCO | C19H22O4S
reactant | triethylamine | 4.18 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | 4,5-dimethoxy-9,9-bis(2'-methanesulphonyloxyethyl)thioxanthene | COC1=CC=CC=2C(C3=CC=CC(=C3SC12)OC)(CCOS(=O)(=O)C)CCOS(=O)(=O)C | C21H26O8S3
